US04200588
4-(1-Adamantyloxy)-2,6-dimethylaniline
9.6 g (33.6 mmoles) of 4-(1-adamantyloxy)-2-(methylthiomethyl)-6-methylaniline is disulfurized as in Example 89 using six rounded teaspoonfuls of Raney nickel sludge (approximately 48 g of Raney nickel). The product is chromatographed by HPLC on a 5.1 cm×109 cm column at 30 psi, eluting with CH2Cl2 followed by 0.5% acetone in CH2Cl2, 5 l., 0.75% acetone in CH2Cl2, 3 l., and 1% acetone in CH2Cl2, 5 l., affording 2.7 g of red solid. Center fractions (0.9 g) give product of m.p. 132.6-139.0.

reactant | 4-(1-adamantyloxy)-2-(methylthiomethyl)-6-methylaniline | 33.6 mmoles, 9.6 g | C12(CC3CC(CC(C1)C3)C2)OC2=CC(=C(N)C(=C2)C)CSC | C19H27NOS
catalyst | Raney nickel | [Ni] | Ni
catalyst | Raney nickel | approximately 48 g | [Ni] | Ni
product | 4-(1-Adamantyloxy)-2,6-dimethylaniline | 2.7 g | C12(CC3CC(CC(C1)C3)C2)OC2=CC(=C(N)C(=C2)C)C | C18H25NO
